US04988698
A mixture of 5-methylimidazo[1,2-a]pyridine-2-carboxylic acid (704 mg), 1-hydroxybenzotriazole (648 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (917 mg) and N,N-dimethylformamide (25 ml) was stirred for 1 hour at ambient temperature. 1-(1-piperazinyl)-3,4-dihydro-2(1H)-quinolinone (924 mg) was added thereto, and the mixture was stirred for 10 hours at the same temperature. After the solvent was removed, to the residue were added 5% solution of methanol in chloroform (30 ml) and water (20 ml), and the mixture was adjusted to pH 9 with a saturated aqueous solution of potassium carbonate. The separated organic layer was dried over magnesium sulfate and concentrated. The residue was subjected to a column chromatography on silica gel (80 g) and eluted with 10% solution of methanol in chloroform. The fractions containing the desired compound were collected and concentrated. The residual crystal was recrystallized from methanol-ethyl acetate to give 6-[4-(5-methylimidazo[1,2-a]pyridine-2-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone (0.8 g).

reactant | 5-methylimidazo[1,2-a]pyridine-2-carboxylic acid | 704 mg | CC1=CC=CC=2N1C=C(N2)C(=O)O | C9H8N2O2
reactant | 1-hydroxybenzotriazole | 648 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 917 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(1-piperazinyl)-3,4-dihydro-2(1H)-quinolinone | 924 mg | N1(CCNCC1)N1C(CCC2=CC=CC=C12)=O | C13H17N3O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-[4-(5-methylimidazo[1,2-a]pyridine-2-carbonyl)-1-piperazinyl]-3,4-dihydro-2(1H)-quinolinone | 0.8 g | CC1=CC=CC=2N1C=C(N2)C(=O)N2CCN(CC2)C=2C=C1CCC(NC1=CC2)=O | C22H23N5O2
